US07763602B2
Step-2: 1,2-bis-(4-chlorophenyl)-5-methylpyrrole
A mixture of 1-(4-chlorophenyl)pentane-1,4-dione (5.0 g., 0.024 mol, as obtained in Step-1) and 4-chloroaniline (3.33 g, 0.026 mol) in benzene (5.0 ml) was refluxed either over molecular sieves or using a Dean Stark apparatus. After three hours, benzene was removed under reduced pressure and the residue dissolved in ethyl acetate, washed with water (2×100 ml.) and brine (1×50 ml). The ethyl acetate layer was dried over anhydrous sodium sulfate, and the solvent evaporated off. The solid so obtained was washed with hexane to give 2.83 g (39.45%) of the title compound.

reactant | 1-(4-chlorophenyl)pentane-1,4-dione | 0.024 mol, 5.0 g | ClC1=CC=C(C=C1)C(CCC(C)=O)=O | C11H11ClO2
reactant | 4-chloroaniline | 0.026 mol, 3.33 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | benzene | 5.0 ml | C1=CC=CC=C1 | C6H6
product | 1,2-bis-(4-chlorophenyl)-5-methylpyrrole | 2.83 g, 39.45% | ClC1=CC=C(C=C1)N1C(=CC=C1C)C1=CC=C(C=C1)Cl | C17H13Cl2N
